US07858786B2
A mixture of isobutyl 4-(6-chloropyrimidin-4-yl)piperazine-1-carboxylate (0.10 g, 0.33 mmol), 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (87 mg, 0.11 mmol), Pd(PPh3)4 (3.8 mg, 3.3 μmol), K2CO3 (91 mg, 0.66 mmol), CH3CN (1 mL), and H2O (0.1 mL) was sealed in a microwave reactor vial. The reaction mixture was heated by microwave irradiation at 130° C. for two minutes. The reaction was filtered and purified by reverse phase HPLC (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)) to give isobutyl 4-(6-(2-hydroxyphenyl)pyrimidin-4-yl)piperazine-1-carboxylate. LC/MS: m/z 357.3 (M+H)+ at 2.72 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | isobutyl 4-(6-chloropyrimidin-4-yl)piperazine-1-carboxylate | 0.33 mmol, 0.10 g | ClC1=CC(=NC=N1)N1CCN(CC1)C(=O)OCC(C)C | C13H19ClN4O2
reactant | 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 0.11 mmol, 87 mg | CC1(OB(OC1(C)C)C1=C(C=CC=C1)O)C | C12H17BO3
reactant | K2CO3 | 0.66 mmol, 91 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 1 mL | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 3.3 μmol, 3.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 0.1 mL | O | H2O
product | isobutyl 4-(6-(2-hydroxyphenyl)pyrimidin-4-yl)piperazine-1-carboxylate | OC1=C(C=CC=C1)C1=CC(=NC=N1)N1CCN(CC1)C(=O)OCC(C)C | C19H24N4O3
